US08912186B2
By a procedure similar to that of example 1.115.1, starting from 4-chlorophenylacetyl chloride and ethyl N-(4-chlorophenyl)-3-aminopropionate, ethyl 3-[2-(4-chloro-phenyl)-N-(4-chlorophenyl)acetamido]-propanoate was obtained as yellowish oil.

reactant | 4-chlorophenylacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | ethyl N-(4-chlorophenyl)-3-aminopropionate | ClC1=CC=C(C=C1)NCCC(=O)OCC | C11H14ClNO2
product | ethyl 3-[2-(4-chloro-phenyl)-N-(4-chlorophenyl)acetamido]-propanoate | ClC1=CC=C(C=C1)CC(=O)N(C1=CC=C(C=C1)Cl)CCC(=O)OCC | C19H19Cl2NO3
